US07652041B2
Step 3. Preparation of 2-((tert-butyldimethylsilyloxy)methyl)-N-(3-tert-butylphenyl) acrylamide
The title compound was prepared as described in Example 10, Step 3, using (E)-2-((tert-butyldimethylsilyloxy)methyl)-3-(3-methoxyphenyl)acrylic acid and 3-tert-butyl aniline. LCMS, FA: Rt=2.51 min, [MH+ 348.0].

reactant | (E)-2-((tert-butyldimethylsilyloxy)methyl)-3-(3-methoxyphenyl)acrylic acid | [Si](C)(C)(C(C)(C)C)OC/C(/C(=O)O)=C\C1=CC(=CC=C1)OC | C17H26O4Si
reactant | 3-tert-butyl aniline | C(C)(C)(C)C=1C=C(N)C=CC1 | C10H15N
product | 2-((tert-butyldimethylsilyloxy)methyl)-N-(3-tert-butylphenyl) acrylamide | [Si](C)(C)(C(C)(C)C)OCC(C(=O)NC1=CC(=CC=C1)C(C)(C)C)=C | C20H33NO2Si
